US08076486B2
{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,2,4]oxadiazol-3-yl}-methanol
To a solution of 5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,2,4]oxadiazole-3-carboxylic acid ethyl ester (768 mg, 1.69 mmL, 1 eq) in THF (6 mL) LiBH4 (55 mg, 2.54 mmol, 1.5 eq) was added. The reaction mixture was stirred overnight and the solvent was evaporated. The residue was dissolved in EtOAc, washed with brine, and dried with anhydrous MgSO4. Filtration and removal of the solvent afforded the crude product which was subjected to silica gel column chromatography (eluent:CH2Cl2:MeOH 70:1) to give rise to pure product (497 mg). [5.01 min; 413 (M+1)]

reactant | 5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,2,4]oxadiazole-3-carboxylic acid ethyl ester | 768 mg, 1 eq | C(C)OC(=O)C1=NOC(=N1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F | C16H12FIN4O3
reactant | THF | 2.54 mmol, 6 mL, 55 mg, 1.5 eq | C1CCOC1 | C4H8O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | {5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,2,4]oxadiazol-3-yl}-methanol | 497 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NC(=NO1)CO | C14H10FIN4O2
